US04902686
d. Ethyl 4,5-dihydro-5-methyl-4-oxo-imidazo(1,5-a)pyrido-(2,3-e)pyrazine-3-carboxylate
To a stirred solution of 1,2,3,4-tetrahydro-4-methyl-2,3-dioxo-pyrido(2,3-b)-pyrazine (5 g) in 50 ml of dry dimethyl formamide (DMF) was added potassium-t-butylate (4 g). The mixture was allowed to stir at room temperature for 15 min whereafter it was cooled to -25° C. and charged with diethyl chlorophosphate (5 ml). Stirring continued at 0° C. for 15 min, then it was cooled to -20° C. whereafter a preformed -30° C. cold solution of ethyl isocyanoacetate (3.9 ml) and potassium-t-butylate (4 g) in 30 ml of dry DMF was added. The resulting solution was allowed to obtain room temperature before acetic acid was added (1,5 ml). The DMF was removed by evaporation in vacuo, whereafter the residue was treated with water to give the crude title compound as pale crystals. Recryst in 96% ETOH M.p. 233°-234° C.

reactant | 1,2,3,4-tetrahydro-4-methyl-2,3-dioxo-pyrido(2,3-b)-pyrazine | 5 g | CN1C2=C(NC(C1=O)=O)C=CC=N2 | C8H7N3O2
reactant | diethyl chlorophosphate | 5 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 3.9 ml | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | DMF | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 4,5-dihydro-5-methyl-4-oxo-imidazo(1,5-a)pyrido-(2,3-e)pyrazine-3-carboxylate | CN1C(C=2N(C3=C1N=CC=C3)C=NC2C(=O)OCC)=O | C13H12N4O3
